US08703797B2
A solution of N-(pyridin-2-yl)pivalamide (3.20 g, 18.0 mmol), n-BuLi (15.00 mL, 2.1 eq.) and N-methoxy-N-methylisobutyramide (2.60 g, 1.1 eq) were reacted as outlined in Scheme 1 to give 3.10 g (69%) of N-(3-isobutyrylpyridin-2-yl)pivalamide. Spectroscopic data: 1H NMR (300 MHz, CDCl3) δ ppm 1.21 (d, J=7.03 Hz, 6 H) 1.35 (s, 9 H) 3.55 (dt, J=13.70, 6.78 Hz, 1 H) 7.08 (dd, J=7.91, 4.69 Hz, 1 H) 8.19 (dd, J=8.20, 2.05 Hz, 1 H) 8.63 (dd, J=4.83, 1.90 Hz, 1 H) 11.51 (br. s., 1 H).

reactant | N-(pyridin-2-yl)pivalamide | 18.0 mmol, 3.20 g | N1=C(C=CC=C1)NC(C(C)(C)C)=O | C10H14N2O
reactant | n-BuLi | 15.00 mL, 2.1 eq. | [Li]CCCC
reactant | N-methoxy-N-methylisobutyramide | 2.60 g, 1.1 eq | CON(C(C(C)C)=O)C | C6H13NO2
product | N-(3-isobutyrylpyridin-2-yl)pivalamide | 3.10 g, 69% | C(C(C)C)(=O)C=1C(=NC=CC1)NC(C(C)(C)C)=O | C14H20N2O2
